US05432273
To a round-bottomed flask equipped with a magnetic spinbar and rubber septum was added 40 mg (0.1399 mmoles) 1-(5-O-acetyl-3-fluoro-2,3-dideoxy-β-D-erythro -pentofuranosyl)thymine, 9.1 mg (0.1679 mmoles) NaOMe powder and MeOH (1.4 mL). The mixture was allowed to stir for @2 hours at room temperature. The solvent was removed in vacuo and the resulting residue was purified by silica gel flash-chromatography to yield 1-(3-fluoro-2,3-dideoxy-β-D-erythro-pentofuranosyl)thymine (85%, 29 mg) as a white powder.

reactant | 1-(5-O-acetyl-3-fluoro-2,3-dideoxy-β-D-erythro -pentofuranosyl)thymine | 0.1399 mmoles, 40 mg | C(C)(=O)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)F | C12H15FN2O5
reactant | NaOMe | 0.1679 mmoles, 9.1 mg | C[O-].[Na+]
solvent | MeOH | 1.4 mL | CO | CH4O
product | 1-(3-fluoro-2,3-dideoxy-β-D-erythro-pentofuranosyl)thymine | 29 mg, 85% | F[C@H]1C[C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C(C)=C1 | C10H13FN2O4
